US06534496B1
5-(1-Acetyl-4-piperidinyl)-1-(3-acetyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-1-pentanone
Using 5-(1-acetyl-4-piperidinyl)valeric acid and 3-acetyl-2,3,4,5-tetrahydro-1H-3-benzazepine, the procedure of Example 23-1 was otherewise repeated to provide the title compound as colorless oil.

reactant | 5-(1-acetyl-4-piperidinyl)valeric acid | C(C)(=O)N1CCC(CC1)CCCCC(=O)O | C12H21NO3
reactant | 3-acetyl-2,3,4,5-tetrahydro-1H-3-benzazepine | C(C)(=O)N1CCC2=C(CC1)C=CC=C2 | C12H15NO
product | 5-(1-Acetyl-4-piperidinyl)-1-(3-acetyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-1-pentanone | C(C)(=O)N1CCC(CC1)CCCCC(=O)C1=CC2=C(CCN(CC2)C(C)=O)C=C1 | C24H34N2O3
